US04098726
3-[N'-(3-Iodopropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium Iodide
To a stirred solution of 216.2 mg. (1 mmole) of N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide in 1.5 ml. of acetonitrile is added a solution of 296 mg. (1 mmole) 1,3-diiodopropane in 0.5 ml. of acetonitrile. The mixture is stirred at room temperature for 2.0 hours and the insoluble N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide hydrobromide is removed by filtration. The filtrate is evaporated and the solid residue obtained is extracted with methylene chloride. The methylene chloride extract is evaporated to give the oily product which is recrystallized from isopropanol-ether.

reactant | N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide | 1 mmole | [Br-].C[N+](CCCNC)(C)C
reactant | 1,3-diiodopropane | 1 mmole | ICCCI | C3H6I2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[N'-(3-Iodopropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium Iodide | [I-].ICCCN(C)CCC[N+](C)(C)C | InChI=1S/C10H24IN2.HI/c1-12(8-5-7-11)9-6-10-13(2,3)4;/h5-10H2,1-4H3;1H/q+1;/p-1
